US09388189B2
(S)-5-Methyl-2-(1-((5-(1-methyl-1H-pyrazol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-5-Methyl-2-(1-((5-(1-methyl-1H-pyrazol-4-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (37 mg, 0.06 mmol) was treated with trifluoroacetic acid (1 mL, 12.98 mmol) and a solution of ammonia (7N in methanol, 1 mL, 7 mmol) according to the method described in Example 27 to give 25 mg (85% yield) of the title compound. Purity 98%.

reactant | (S)-5-Methyl-2-(1-((5-(1-methyl-1H-pyrazol-4-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.06 mmol, 37 mg | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)N(C=C1C=1C=NN(C1)C)COCC[Si](C)(C)C | C31H37N9O2Si
reactant | trifluoroacetic acid | 12.98 mmol, 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 7 mmol, 7N, 1 mL | N | H3N
product | (S)-5-Methyl-2-(1-((5-(1-methyl-1H-pyrazol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 25 mg, 85% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)NC=C1C=1C=NN(C1)C | C25H23N9O
